US06448204B1
1A Preparation of 2-bromo-4-methyl-6-(3-trifluoromethyl-1H-pyrazol-1-yl)-pyridine
A mixture of 2,6-dibromo-4-methylpyridine (33 mmol, obtained according to the method disclosed by WO 94/22833), 3-trifluoromethyl-1H-pyrazole (21 mmol), potassium carbonate (45 mmol) and N,N-dimethylformamide ((50 mL) is heated at 90° C. for 4 hours. The reaction mixture is partitioned between ethyl acetate ands water. The separated organic phase is washed with brine, dried over sodium sulfate and evaporated in vacuo to provide an oily residue which is purified by flash chromatography. To yield 1.9 g of the title compound.

reactant | 2,6-dibromo-4-methylpyridine | BrC1=NC(=CC(=C1)C)Br | C6H5Br2N
reactant | 3-trifluoromethyl-1H-pyrazole | 21 mmol | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | potassium carbonate | 45 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-bromo-4-methyl-6-(3-trifluoromethyl-1H-pyrazol-1-yl)-pyridine | 1.9 g | BrC1=NC(=CC(=C1)C)N1N=C(C=C1)C(F)(F)F | C10H7BrF3N3
